US04283420
1-Methoxymethyl-1-cyclohexyl-carboxylic acid
11.8 g (0.093 mole) of cyclohexylcarboxylic acid were added to a solution of lithium diisopropylamide prepared using 125 cm3 of a 1.50 M solution of butyllithium in hexane, 18.9 g of diisopropylamine and 200 cm3 of THF as the starting materials. After the mixture had been heated at 60° C. for 2 hours, 8 g of methoxymethyl chloride were added, at a temperature of -30° C. After the customary treatment, methoxymethylcyclohexylcarboxylic acid was distilled; this was in the form of a colourless liquid which crystallised on cooling.

reactant | cyclohexylcarboxylic acid | 0.093 mole, 11.8 g | C1(CCCCC1)C(=O)O | C7H12O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 18.9 g | C(C)(C)NC(C)C | C6H15N
reactant | methoxymethyl chloride | 8 g | COCCl | C2H5ClO
solvent | hexane | CCCCCC | C6H14
solvent | THF | 200 cm3 | C1CCOC1 | C4H8O
product | 1-Methoxymethyl-1-cyclohexyl-carboxylic acid | COCC1(CCCCC1)C(=O)O | C9H16O3
